US07790709B2
Preparation of (3-Choro-2-ethoxy-benzyl)methylamine
Iodoethane (1.54 mL, 19.2 mmol) was added to a stirring solution of 3-chloro-2-hydroxy-benzaldehyde (2.01 g, 12.8 mmol) and K2CO3 (3.90 g, 28.2 mmol) in DMF (25 mL). The mixture was heated to 50° C. and stirred for 2.5 h. The heat was removed and reaction stirred at room temperature for 18 h. The reaction was quenched with H2O (70 mL). The mixture was extracted with EtOAc (3×50 mL). The combined organics were washed with brine (2×50 mL), dried over Na2SO4, filtered and concentrated to yield the title compound (2.16 g, 91%) as a yellow oil: 1H NMR (300 MHz, DMSO-d6) δ 10.27 (s, 1H), 7.85 (dd, J=7.8, 1.5 Hz, 1H), 7.72 (dd, J=7.8, 1.8 Hz, 1H), 7.33 (t, J=7.8 Hz, 1H), 4.14 (q, J=7.2 Hz, 2H), 1.39 (t, J=6.9 Hz, 3H).

reactant | Iodoethane | 19.2 mmol, 1.54 mL | ICC | C2H5I
reactant | 3-chloro-2-hydroxy-benzaldehyde | 12.8 mmol, 2.01 g | ClC=1C(=C(C=O)C=CC1)O | C7H5ClO2
reactant | K2CO3 | 28.2 mmol, 3.90 g | C(=O)([O-])[O-].[K+].[K+]
reactant | DMF | 25 mL | CN(C)C=O | C3H7NO
product | (3-Choro-2-ethoxy-benzyl)methylamine | 2.16 g, 91% | ClC=1C(=C(CCN)C=CC1)OCC | C10H14ClNO
